US07576215B2
(2-FLUOROPHENYL)[4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-3-Yl]METHANONE
3-(2-Fluorophenyl)-3-oxopropionaldehyde (0.451 g, 2.70 mmol) and [2-amino-3-(trifluoromethyl)phenyl](phenyl)methanone (0.119 g, 0.448 mmol) in AcOH (5 mL) is treated with 0.1 mL of 1:20H2SO4/AcOH solution and heated at reflux for 20 min. The cooled reaction is quenched with water and extracted with ethyl acetate twice. The combined organic layers are washed with saturated aq sodium bicarbonate and dried over MgSO4. The product is purified by chromatography (5:95 ethyl acetate:hexane) to afford the title compound as a yellow solid (0.162 g, 91.5%). MS (ESI) m/z 396.1009; HRMS: calcd for C23H13F4NO+H, 396.10115; found (ESI, [M+H]+), 396.1009.

reactant | 3-(2-Fluorophenyl)-3-oxopropionaldehyde | 2.70 mmol, 0.451 g | FC1=C(C=CC=C1)C(CC=O)=O | C9H7FO2
reactant | [2-amino-3-(trifluoromethyl)phenyl](phenyl)methanone | 0.448 mmol, 0.119 g | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=CC=C1 | C14H10F3NO
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | (2-FLUOROPHENYL)[4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-3-Yl]METHANONE | 0.162 g, 91.5% | FC1=C(C=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C23H13F4NO
